US08871798B2
(E)-3-[5-(3-Fluorophenyl)pyridin-2-yl]propenal
584 mg of 5-(3-fluorophenyl)pyridine-2-carbaldehyde and 883 mg of (triphenylphosphoranylidene)acetaldehyde are stirred at RT overnight. The solvents are evaporated and the residue is purified by column chromatography (silica gel, MeOH:DCM=99.5:0.5).

reactant | 5-(3-fluorophenyl)pyridine-2-carbaldehyde | 584 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)C=O | C12H8FNO
reactant | (triphenylphosphoranylidene)acetaldehyde | 883 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
product | (E)-3-[5-(3-Fluorophenyl)pyridin-2-yl]propenal | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
